### PR TITLE
[Merged by Bors] - feat(ENat): sSup_mem_of_Nonempty_of_lt_top

### PR DESCRIPTION
**Pull request by nomeata**
Lemma statement due to Gareth Ma. More discussion at
https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/ENat.2EiSup_eq_coe_iff

from the Carleson project

### CODE REVIEW

File: Mathlib/Data/ENat/Lattice.lean [hunk 1]
```diff
@@ -71,4 +71,25 @@ lemma sInf_eq_zero : sInf s = 0 ↔ 0 ∈ s := by
 lemma sSup_eq_zero' : sSup s = 0 ↔ s = ∅ ∨ s = {0} :=
   sSup_eq_bot'
 
+lemma sSup_eq_top_of_infinite (h : s.Infinite) : sSup s = ⊤ := by
+  apply (sSup_eq_top ..).mpr
+  intro x hx
+  cases x; simp at hx; next x =>
```
Comment (semorrison) [inline Mathlib/Data/ENat/Lattice.lean:77]: I'd prefer bullets here, to make clear that `simp at hx` is closing a goal.

**Comment by semorrison** [comment]
bors d+
